US03970754
Preparation of 5-chloro-1-methyl-3phenylpyrazole
To a solution of phosphorous oxychloride (2,015 g, 19 moles) is added solid 1-methyl-3-phenylpyrazolin-5-one (2,073 g, 11.9 moles) with stirring and warming. At 100°C. the mixture becomes homogeneous. The reflux temperature rises from 119°C. to 143°C. over a period of 30 hours. After cooling the mixture is poured into ice and water (8 l) with stirring. After 4 hours the slurry is filtered and the filter cake added to 4 l of water containing 1.5 l of 10% sodium hydroxide solution with stirring. Removal of the solid by filtration followed by a recrystallization from hexane yields 1,523 g of product, having a melting point ranging from 61°C. to 62°C.

reactant | phosphorous oxychloride | 19 moles, 2,015 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-methyl-3-phenylpyrazolin-5-one | 11.9 moles, 2,073 g | CN1NC(=CC1=O)C1=CC=CC=C1 | C10H10N2O
solvent | water | 8 l | O | H2O
product | 5-chloro-1-methyl-3phenylpyrazole | 1,523 g | ClC1=CC(=NN1C)C1=CC=CC=C1 | C10H9ClN2
